US06969725B2
c] (2S)-3-(4-Benzyloxy-2-methyl-phenyl)-2-ethoxy-propionic acid methyl ester
Triethylsilane (23 ml, 145 mmol) was added to a vigorously stirred, ice-cooled solution of (2S,3R)-3-(4-benzyloxy-2-methyl-phenyl)-2-ethoxy-3-hydroxy-propionic acid methyl ester (5 g, 14.5 mmol) in trifluoroacetic acid (84 ml) under an argon atmosphere. The mixture was stirred at 0° C. for 30 min and for additional 2 h at ambient temperature. The solution was poured onto crashed ice and extracted with ethyl acetate. The organic layer was washed two times with water and neutralized with saturated aqueous sodium bicarbonate solution. The ethyl acetate layer was washed with brine and dried over sodium sulfate. The solvent was removed under reduced pressure to give a colorless oil which was purified by column chromatography (silica gel, cyclohexane/AcOEt) to yield 2.15 g (6.5 mmol, 45%) of the title compound as colorless oil.

reactant | Triethylsilane | 145 mmol, 23 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | (2S,3R)-3-(4-benzyloxy-2-methyl-phenyl)-2-ethoxy-3-hydroxy-propionic acid methyl ester | 14.5 mmol, 5 g | COC([C@H]([C@H](O)C1=C(C=C(C=C1)OCC1=CC=CC=C1)C)OCC)=O | C20H24O5
solvent | trifluoroacetic acid | 84 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (2S)-3-(4-Benzyloxy-2-methyl-phenyl)-2-ethoxy-propionic acid methyl ester | 6.5 mmol, 2.15 g, 45% | COC([C@H](CC1=C(C=C(C=C1)OCC1=CC=CC=C1)C)OCC)=O | C20H24O4
